US09428470B2
F) Benzyl 1-(3-(2-(5,5-bis(2-(benzyloxy)-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-((4-nitrobenzoyl)oxy)phenyl)propanoyl)piperidine-4-carboxylate
4-Nitrobenzoyl chloride (405 mg) was added in small portions to a solution of benzyl 1-(3-(2-(5,5-bis(2-(benzyloxy)-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylate (800 mg) in pyridine (4 mL) at 0 C. The obtained mixture was stirred at room temperature for 45 minutes. To the reaction mixture, ethyl acetate and 1 M hydrochloric acid were added 0 C, followed by extraction with ethyl acetate. Combined organic layers were washed with diluted aqueous ammonia ((28% aqueous ammonia (0.5 mL)/water (25 mL))×2), 1 M hydrochloric acid, and brine and dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (939 mg).

reactant | 4-Nitrobenzoyl chloride | 405 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | benzyl 1-(3-(2-(5,5-bis(2-(benzyloxy)-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-hydroxyphenyl)propanoyl)piperidine-4-carboxylate | 800 mg | C(C1=CC=CC=C1)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)O)CCC(=O)N1CCC(CC1)C(=O)OCC1=CC=CC=C1)CC(OCC1=CC=CC=C1)=O)=O | C43H44N2O9
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | Benzyl 1-(3-(2-(5,5-bis(2-(benzyloxy)-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-((4-nitrobenzoyl)oxy)phenyl)propanoyl)piperidine-4-carboxylate | 939 mg | C(C1=CC=CC=C1)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)CCC(=O)N1CCC(CC1)C(=O)OCC1=CC=CC=C1)CC(OCC1=CC=CC=C1)=O)=O | C50H47N3O12
